datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([O:6][O:7][H:16])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([O:6][O:7][H:16])([H:12])[C:3]([H:13])([H:14])[O:4]1)([H:8])([H:9])[H:10].[O:5][H:15],66.944
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13](=[C:14]([H:22])[H:23])[H:21])[C:15](=[C:16]([H:25])[H:26])[H:24])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:17])[H:18])[H:19])[H:20])([C:13](=[C:14]([H:22])[H:23])[H:21])[C:15](=[C:16]([H:25])[H:26])[H:24])[H:4],34.8527
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])[C:4]1([H:10])[H:11],125.52
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]#[C:16][H:19])[H:18])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:17])([C:15]#[C:16][H:19])[H:18],23.4304
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:25]([C:24](=[C:23]([H:27])[H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:13])([H:11])[H:12],48.5344
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0]([O:1][C:6]([H:7])([H:8])[H:9])([H:2])([H:3])[H:4].[H:5],174.909
[C:1]1=[C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]=1[H:14]>>[C:1]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:11])[C:12]1([H:10])[H:14],122.043096
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18],0.0
[C:0]([C:1]([C:2]([S:3][H:10])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([C:2]([S:3])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[H:10],22.3844
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:11])[H:12])[H:7])([H:5])[H:6].[H:10][C:13]([H:14])([H:15])[H:16],23.7442
[C:5](=[C:6]=[C:7]([H:9])[H:10])[H:8].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5](=[C:6]=[C:7]([H:9])[H:10])[H:8].[S:0]=[C:1][S:2][H:4],114.6
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],172.59
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:9])([H:7])[H:8],76.3998
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20])[H:8],45.3964
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[Cl:6]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][Cl:6],30.47
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:7][O:16][C:15]([H:17])([H:18])[H:19],50.16616
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5](=[C:6]([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:12])[H:13])[H:8]>>[C:0](#[C:1][C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[C:5]([C:7]([H:16])([H:17])[H:18])[C:6]1([H:14])[H:15])[H:8],152.716
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:10])[C:6]#[C:7][H:11])[H:9])[H:8].[H:12]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:10])[C:6]#[C:7][H:11])([H:9])[H:12])[H:8],3.93296
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[O:2]1.[C:7]([O:8][O:9])([H:10])([H:11])[H:12]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[O:2]1.[H:3][O:9][O:8][C:7]([H:10])([H:11])[H:12],127.31912
